US07989633B2
3-Amino-1-(4-methylphenyl)but-2-en-1-one
3-Methyl-5-(4-methylphenyl)isoxazole (1 g, 5.77 mmol) is introduced into 20 ml of ethanol, platinum(IV) oxide catalyst (100 mg) is added, and the mixture is then hydrogenated under atmospheric hydrogen for 12 h. The catalyst is filtered off and the filtrate is concentrated. 1.02 g (100% of theory) of the title compound are obtained as a white solid.

reactant | 3-Methyl-5-(4-methylphenyl)isoxazole | 5.77 mmol, 1 g | CC1=NOC(=C1)C1=CC=C(C=C1)C | C11H11NO
catalyst | platinum(IV) oxide | 100 mg | [Pt](=O)=O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-Amino-1-(4-methylphenyl)but-2-en-1-one | NC(=CC(=O)C1=CC=C(C=C1)C)C | C11H13NO
